US08106070B2
Rainey Nickel (600 mg) followed by 1 M aqueous potassium hydroxide (1 mL) were added to an ambient temperature solution of 4-(2,2-dimethylpropyl)-2-{hydroxy[2-(4-pyridin-2-ylphenyl)-1,3-dithian-2-yl]methyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide (21 mg, 0.04 mmol) in ethanol (2 mL). After stirring at ambient temperature overnight, the reaction mixture was filtered through celite and concentrated in vacuo. Prep plate chromatography (70% ethyl acetate/hexane) afforded 4-(2,2-dimethyl-propyl)-2-[1-hydroxy-2-(4-pyridin-2-ylphenyl)ethyl]-N,N-dimethyl-1H-imidazole-1-sulfonamide.

reactant | potassium hydroxide | 1 M, 1 mL | [OH-].[K+]
reactant | 4-(2,2-dimethylpropyl)-2-{hydroxy[2-(4-pyridin-2-ylphenyl)-1,3-dithian-2-yl]methyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.04 mmol, 21 mg | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(C1(SCCCS1)C1=CC=C(C=C1)C1=NC=CC=C1)O)(C)C | C26H34N4O3S3
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | Nickel | 600 mg | [Ni] | Ni
product | 4-(2,2-dimethyl-propyl)-2-[1-hydroxy-2-(4-pyridin-2-ylphenyl)ethyl]-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)C1=NC=CC=C1)O)(C)C | C23H30N4O3S
